US05576335
Phenyl N-[2-(3,5-di-t-butyl-4-hydroxybenzoylamino)phenyl]carbamate (1.6 g) and dibenzylamine (0.7 g) were dissolved in benzene (10 ml) and stirred at 70°-80°0 C. for 2 hrs. The reaction solution was washed with 2N sodium hydroxide, saturated ammonium chloride solution, dried over anhydrous NaSO4 and the solvent was distilled off. Purification of the residue by a silica gel column chromatography followed by crystallization from ether afforded N-[2-(3,3-dibenzylureido )phenyl]-3,5-di-t-butyl-4-hydroxybenzamide (0.47 g, 23%).

reactant | Phenyl N-[2-(3,5-di-t-butyl-4-hydroxybenzoylamino)phenyl]carbamate | 1.6 g | C(C)(C)(C)C=1C=C(C(=O)NC2=C(C=CC=C2)NC(OC2=CC=CC=C2)=O)C=C(C1O)C(C)(C)C | C28H32N2O4
reactant | dibenzylamine | 0.7 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | N-[2-(3,3-dibenzylureido )phenyl]-3,5-di-t-butyl-4-hydroxybenzamide | 0.47 g, 23% | C(C1=CC=CC=C1)N(C(NC1=C(C=CC=C1)NC(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)=O)CC1=CC=CC=C1 | C36H41N3O3
